US08461134B2
Neat N-(3-fluorophenyl)acetamide (5 g, 32.65 mmol) was put on an ice-water bath and had chlorosulfonic acid added drop-wise. The solution was stirred at 0° C. for one hour, and was then stirred at room temperature overnight. The reaction was then stirred at 50° C. for four hours. The solution was then cooled to room temperature and added to a beaker of ice water. The ice was allowed to melt and then the solution was extracted with ethyl ether. The organic layer was washed with brine, then dried over sodium sulfate, and filtered. The solvent was removed under slightly reduced pressure to give 4-acetamido-2-fluorobenzene-1-sulfonyl chloride (1.50 g, 18% yield).

reactant | N-(3-fluorophenyl)acetamide | 32.65 mmol, 5 g | FC=1C=C(C=CC1)NC(C)=O | C8H8FNO
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
product | 4-acetamido-2-fluorobenzene-1-sulfonyl chloride | 1.50 g, 18% yield | C(C)(=O)NC1=CC(=C(C=C1)S(=O)(=O)Cl)F | C8H7ClFNO3S
